US07838329B2
Synthesis of Ethylmethylaminotriisopropylgermane
A solution of nBuLi (2M in hexanes, 26.34 mL, 42.14 mmol) was slowly added to an ice-cooled solution of ethylmethylamine (3.98 mL, 46.35 mmol) in ether (100 mL). The resulting white mixture was stirred for 2 hours. Triisopropylchlorogermane (9.16 mL, 42.14 mmol) was added dropwise and the reaction mixture slowly warmed to room temperature. The mixture was stirred overnight, the solvent evaporated under vacuum, and the residue washed with pentane (100 mL). The mixture was filtered through a medium glass frit under nitrogen and the solvent evaporated under vacuum to give 10.7 g, 98% of a colorless liquid. The product was purified by fractional distillation (40° C., 75 mtorr). 1H NMR (C6D6): δ 2.87 (q, 2H, 3J=6.9 Hz, NCH2CH3), 2.62 (s, 3H, NCH3), 1.36 (m, CH(CH3)2), 1.18 (d, 18H, 3J=7.2 Hz, CH(CH3)2), 1.11 (t, 3H, 3J=6.9 Hz, NCH2CH3). 13C NMR(C6D6): δ 48.42, 38.22 (NCH2CH3, NCH3), 20.19 (CH(CH3)2), 16.20, 15.79 (NCH2CH3, CH(CH3)2).

reactant | nBuLi | 42.14 mmol, 2M, 26.34 mL | [Li]CCCC
reactant | ethylmethylamine | 46.35 mmol, 3.98 mL | C(C)NC | C3H9N
reactant | Triisopropylchlorogermane | 42.14 mmol, 9.16 mL | C(C)(C)[Ge](Cl)(C(C)C)C(C)C | C9H21ClGe
reactant | ether | 100 mL | CCOCC | C4H10O
product | Ethylmethylaminotriisopropylgermane | 10.7 g, 98% | C(C)C(C)(C)[Ge](C(C)C)(C(C)C)NC | C12H29GeN
